US09193693B2
Step 2. Methyl 3-(cyclopentyl(methyl)amino)-2-phenylquinoxaline-6-carboxylate
Into a 50-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of methyl 3-(cyclopentylamino)-2-phenylquinoxaline-6-carboxylate (214.1 mg, 0.62 mmol, 1.00 equiv) in tetrahydrofuran (10 mL). This was followed by the addition of sodium hydride (246.8 mg, 6.17 mmol, 10.00 equiv, 60%) dropwise with stiffing at 0° C. The resulting solution was stirred for 1 h at room temperature. To this was added a solution of CH3I (1.75 g, 12.32 mmol, 20.00 equiv) in tetrahydrofuran (2 mL) dropwise with stiffing at 0° C. The resulting solution was stirred overnight at room temperature. The reaction was then quenched by the addition of water. The resulting mixture was concentrated under vacuum. This resulted in 200 mg (crude) of methyl 3-(cyclopentyl(methyl)amino)-2-phenylquinoxaline-6-carboxylate as yellow oil.

reactant | methyl 3-(cyclopentylamino)-2-phenylquinoxaline-6-carboxylate | 0.62 mmol, 214.1 mg, 1.00 equiv | C1(CCCC1)NC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C21H21N3O2
reactant | sodium hydride | 6.17 mmol, 246.8 mg, 10.00 equiv | [H-].[Na+]
reactant | CH3I | 12.32 mmol, 1.75 g, 20.00 equiv | CI | CH3I
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | Methyl 3-(cyclopentyl(methyl)amino)-2-phenylquinoxaline-6-carboxylate | C1(CCCC1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1)C | C22H23N3O2
